US04723006
A mixture of 1.0 part of 2-amino-4-fluoro-6-fluoromethylpyrimidine, 3.0 parts of methanethiol and 50 parts of dry tetrahydrofuran was stirred at 5° C. whilst a solution of 0.16 parts of sodium in 20 parts of dry methanol was added dropwise. The temperature was kept below 10° C. with ice-bath cooling. When the addition was complete, stirring was continued for 1 hour. The resulting solution was evaporated and the residue was diluted with water and extracted three times with 50 parts of ether. The ethereal solutions were combined and dried (MgSO4). The solvent was evaporated and the crude product was purified by recrystallisation from carbon tetrachloride to give 2-amino-4-fluoromethyl-6-methylthiopyrimidine m.p. 95°-97° C.

reactant | 2-amino-4-fluoro-6-fluoromethylpyrimidine | NC1=NC(=CC(=N1)F)CF | C5H5F2N3
reactant | methanethiol | CS | CH4S
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | sodium | [Na] | Na
solvent | methanol | CO | CH4O
product | 2-amino-4-fluoromethyl-6-methylthiopyrimidine | NC1=NC(=CC(=N1)CF)SC | C6H8FN3S
